US04743685
(D) 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-N-(2-oxo-1-imidazolidinyl)-2-propenamide
3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl-]-2-propenoic acid (10.85 g), 1 g of N-hydroxybenzotriazole, 0.01 g of N,N-dimethylaminopyridine and 8.24 g of dicyclohexylcarbodiimide were stirred for 30 minutes in 100 ml of dimethylformamide. After cooling to 0° C., 4 g of N-aminoimidazolidinone was added and stirring continued for 1 hour at 0° C. and 10 hours at room temperature. The resulting suspension was then heated to 60° C. and filtered. It was again suspended in 50 ml of dimethylformamide and heated to 60° C. and filtered again. The combined filtrates were evaporated at 40° C. (oil vacuo). The oily residue was stirred with 50 ml of water containing 2 g of sodium bicarbonate. After the filtration, the solid was washed with water, acetone and ether. 12.3 g of solid was obtained after drying. It was stirred together with 8 g of p-toluenesulfonic acid in 100 ml of dichloromethane for 1 hour. Filtration yielded 12.98 g of a white solid. This material was suspended in water. Recrystallization from water/dimethylformamide yielded 8.49 g of the title compound, melting point 271° C.

reactant | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2pyridinyl-]-2-propenoic acid | 10.85 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)O | C15H13NO4
reactant | N-hydroxybenzotriazole | 1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 8.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-aminoimidazolidinone | 4 g | NN1C(NCC1)=O | C3H7N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-[1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinyl]-N-(2-oxo-1-imidazolidinyl)-2-propenamide | 12.3 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=CC(=O)NN1C(NCC1)=O | C18H18N4O4
